US04990495
The method employed was identical to that described in example 1(c), but using as starting products 4.82 g of 12-(2,2-dimethylpropoxy)-4,8-dodecadien-1-ol, 7.8 g of PCC and 50 ml of dichloromethane. The stirring was carried out for 1 h. 4.11 g of 12-(2,2-dimethylpropoxy)-4,8-cyclododecadien-1-one were obtained.

reactant | 12-(2,2-dimethylpropoxy)-4,8-dodecadien-1-ol | 4.82 g | CC(COCCCC=CCCC=CCCCO)(C)C | C17H32O2
reactant | PCC | 7.8 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 12-(2,2-dimethylpropoxy)-4,8-cyclododecadien-1-one | 4.11 g, yield 86% | CC(COC1CCC=CCCC=CCCC1=O)(C)C | C17H28O2
